US07119116B2
2,2,2-Trifluoroethyl trans-3-[5-(6-cyclopropylmethoxy-naphthalen-1-yl)-1,3-dioxan-2-yl]propylcarbamate
0.075 ml (1.01 mmol) of 2,2,2-trifluoroethanol is added, dropwise and at ambient temperature, to a suspension of 0.205 g (1.01 mmol) of 4-nitrophenyl chloroformate and 0.555 g (2.02 mmol) N,N-diisopropylaminoethylpolystyrene (Ps-DIEA, 2% DVB, titre=3.66 mmol/g) in 7.1 ml of dichloromethane. The mixture is stirred with orbital shaking and at ambient temperature for 16 hours. The resin is filtered through a cartridge equipped with a sintered glass funnel and rinsing is carried out with 4 ml of dichloromethane. The filtrate is concentrated under reduced pressure and the oily residue thus obtained is taken up in 3.5 ml of 1,2-dichloroethane. 0.134 ml (0.78 mmol) of N,N-diisopropylethylamine and 0.205 g (0.6 mmol) of 3-[5-(6-cyclopropylmethoxynaphthalen-1-yl)-1,3-dioxan-2-yl]propylamine are successively added. This reaction mixture is heated at 60° C. for 16 hours. After cooling, washing is carried out with 20 ml of a 1N sodium hydroxide solution. The phases are separated and the organic phase is filtered through a hydrophobic sintered glass funnel. The filtrate is concentrated under reduced pressure and the residue is purified by chromatography on silica gel, eluting with an 80/20 mixture of cyclohexane and ethyl acetate. After washing in 5 ml of diisopropyl ether, 0.076 g of white solid is obtained.

reactant | 2,2,2-trifluoroethanol | 1.01 mmol, 0.075 ml | FC(CO)(F)F | C2H3F3O
reactant | 4-nitrophenyl chloroformate | 1.01 mmol, 0.205 g | ClC(=O)OC1=CC=C(C=C1)[N+](=O)[O-] | C7H4ClNO4
reactant | DIEA | CCN(C(C)C)C(C)C | C8H19N
reactant | N,N-diisopropylethylamine | 0.78 mmol, 0.134 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | 3-[5-(6-cyclopropylmethoxynaphthalen-1-yl)-1,3-dioxan-2-yl]propylamine | 0.6 mmol, 0.205 g | C1(CC1)COC=1C=C2C=CC=C(C2=CC1)C1COC(OC1)CCCN | C21H27NO3
solvent | dichloromethane | 7.1 ml | ClCCl | CH2Cl2
solvent | 1,2-dichloroethane | 3.5 ml | ClCCCl | C2H4Cl2
product | 2,2,2-Trifluoroethyl trans-3-[5-(6-cyclopropylmethoxy-naphthalen-1-yl)-1,3-dioxan-2-yl]propylcarbamate | 0.076 g | C1(CC1)COC=1C=C2C=CC=C(C2=CC1)[C@H]1CO[C@@H](OC1)CCCNC(OCC(F)(F)F)=O | C24H28F3NO5
